* C:\Users\Agustín\Documents\DCE\DISE-O_CIRCUITOS_ELECTRONICOS_1C_2022\ReguladorTension-1ite.asc
Q1 N001 N004 0 0 QMPS918
Q2 N002 N005 0 0 QMPS918
R1 N005 0 250k
R2 Vo N005 250k
R3 0 Vo {RLOAD}
Vref N003 0 4.5
Vreg N001 0 {VPARAM}
R4 N001 N002 2.5k
R6 N004 0 10k
R7 N004 N003 50k
M1 Vo N002 N001 N001 HAT1072H
.model NPN NPN
.model PNP PNP
.lib C:\Users\Agustín\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Agustín\Documents\LTspiceXVII\lib\cmp\standard.mos
.MODEL Qbd139 NPN ( IS=1e-09 BF=222.664 NF=0.85 VAF=36.4079 IKF=0.166126 ISE=5.03418e-09 NE=1.45313 BR=1.35467 NR=1.33751 VAR=142.931 IKR=1.66126 ISC=5.02557e-09 NC=3.10227 RB=26.9143 IRB=0.1 RBM=0.1 RE=0.000472454 RC=1.04109 XTB=0.727762 XTI=1.04311 EG=1.05 CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09 XTF=1 VTF=10 ITF=0.01 CJC=1e-11 VJC=0.75 MJC=0.33 XCJC=0.9 FC=0.5 CJS=0 VJS=0.75 MJS=0.5 TR=1e-07 PTF=0 KF=0 AF=1)
.op
.MODEL QMPS918 NPN (IS=5.07F NF=1 BF=130 VAF=69.7 IKF=30M ISE=3.9P NE=2
+ BR=4 NR=1 VAR=12 IKR=45M RE=13.1 RB=52.6 RC=5.26 XTB=1.5
+ CJE=2.41P VJE=1.1 MJE=.5 CJC=4.91P VJC=.3 MJC=.3 TF=198P TR=138N)
.step param RLOAD 100 10k 500
.step param VPARAM 6 7 .2
.backanno
.end
